US07371755B1
3-(Hydroxymethyl)-5-[5-[2,6-dichloro-4-(4,5-dihydro-2-oxazolyl)phenoxy]-pentyl]-isoxazole (540 mg, 1.25 μmnol) in DCM (5 ml), prepared according to a literature procedure J. Med. Chem. (1990) 33, 1306-1311, was added rapidly to triphenylphosphine (410 mg, 1.56 mmol) and N-bromosuccinimide (278 mg, 1.56 mmol) in DCM (15 ml) at 0° C. The reaction was allowed to warm to room temperature, then after 3 hours the product was adsorbed onto silica gel and chromatographed on silica gel, eluent 1:1 ethyl acetate/hexane to give the brominated compound, 3-(bromomethyl)-5-[5-[2,6-dichloro-4-(4,5-dihydro-2-oxazolyl)phenoxy]-pentyl]-isoxazole as an off white solid (408 mg, 0.88 mmol) in 70% yield, Rf=0.25. 1H mm (D6 acetone): δ=8.01 (s, 2H); 6.46 (s, 1H); 4.69 (s, 2H); 4.61 (t, 2H); 4.26 (t, 2H); 4.16 (t, 2H); 3.00 (m, 2H); 2.2-1.7 ppm (m, 6H). MS (ES):(M+H)+ 461,463,465. Neat 3,6,9-trioxa-11-azidoundecanol (237 mg, 1.08 mmol) prepared according to a literature procedure J Org. Chem. (1991) 56 4326, was added to a solution of sodium hydride (1.6 mmol) in DMF (3 ml) and stirred for 3 hours under argon. Tetrabutylammonium iodide (40 mg, 0.11 mmol) and a solution of the brominated compound (500 mg, 1.08 mmol) in DMF (3 ml) was added to the reaction. After 3 hours the reaction was quenched with water (1 ml) then partitioned between ethyl acetate (150 ml) and water (30 ml). The organic phase was washed with brine (30 ml), dried (Na2SO4) and concentrated to give a yellow brown oil. Chromatography of the crude residue twice on silica gel (50 g), eluent 2:1-3:1 ethyl acetate/hexane then 1:1 DCM/hexane gave 3-(1-azido-3,6,9,12-tetraoxamidecyl)-5-[5-[2,6-dichloro-4(4,5-dihydro-2-oxazolyl)phenoxy]-pentyl]-isoxazole (Compound 1) (400 mg, 0.67 mmol) in 62% yield. 1H nmr (D6 acetone): δ=8.01 (s, 2H); 6.34 (s, 1H); 4.70 (s, 2H); 4.61 (t, 2H); 4.26 (t, 2H); 4.16 (t, 2H); 3.8 (m, 14H); 3.52 (t, 2H); 2.95 (m, 2H); 2.2-1.7 ppm (m, 6H). MS (ES): (M+H)+ 600.

reactant | 3-(Hydroxymethyl)-5-[5-[2,6-dichloro-4-(4,5-dihydro-2-oxazolyl)phenoxy]-pentyl]-isoxazole | 540 mg | OCC1=NOC(=C1)CCCCCOC1=C(C=C(C=C1Cl)C=1OCCN1)Cl | C18H20Cl2N2O4
reactant | triphenylphosphine | 1.56 mmol, 410 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 1.56 mmol, 278 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-(bromomethyl)-5-[5-[2,6-dichloro-4-(4,5-dihydro-2-oxazolyl)phenoxy]-pentyl]-isoxazole | 70% yield | BrCC1=NOC(=C1)CCCCCOC1=C(C=C(C=C1Cl)C=1OCCN1)Cl | C18H19BrCl2N2O3
